US08629271B2
a) Ethyl 2-butyramido-3-mercaptopropanoate
Triethylamine (4.5 mL) was added to a suspension of ethyl 2-amino-3-mercaptopropanoate hydrochloride (5 g) in DCM (50 mL). The resulting mixture was cooled in an ice/salt bath and butyryl chloride (3.3 mL) was added dropwise. The resulting mixture was allowed to warm to RT and stirred overnight. The reaction was quenched with saturated sodium bicarbonate solution (50 mL) and the layers separated. The aqueous phase was extracted with DCM (2×100 mL). The combined organic solutions were washed with brine (100 mL), dried over sodium sulphate, filtered and evaporated. The resulting white solid was purified by silica gel chromatography eluting with 4:1 to 1:1 isohexane:ethyl acetate gradient. The fractions containing product were combined and evaporated to give the subtitled compound as a white solid. Yield 3 g.

reactant | Triethylamine | 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-amino-3-mercaptopropanoate hydrochloride | 5 g | Cl.NC(C(=O)OCC)CS
reactant | butyryl chloride | 3.3 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-butyramido-3-mercaptopropanoate | C(CCC)(=O)NC(C(=O)OCC)CS | C9H17NO3S
